US08859591B2
Step A: 1-(benzyloxy)-4-iodo-2-methylbenzene
A mixture of 4-iodo-2-methylphenol (700 mg, 3.0 mmol), benzyl bromide (563 mg, 3.3 mmol), potassium carbonate (620 mg, 4.5 mmol), and acetonitrile (15 ml) was stirred at the ambient temperature for three days. The reaction was concentrated in vacuum and the residue was partitioned between water and ethyl acetate. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, and loaded on silica gel. Chromatography on a silica gel column, eluting with a gradient from 5% to 30% of ethyl acetate in heptane gave the target product as a colorless solid (950 mg, 98%). 1H NMR (500 MHz, CDCl3) δ 7.48 (d, 1H), 7.38-7.45 (m, 5H), 7.33-7.37 (m, 1H), 6.66 (d, J=8.54 Hz, 1H), 5.07 (s, 2H), 2.25 (s, 3H).

reactant | 4-iodo-2-methylphenol | 3.0 mmol, 700 mg | IC1=CC(=C(C=C1)O)C | C7H7IO
reactant | benzyl bromide | 3.3 mmol, 563 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 4.5 mmol, 620 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 1-(benzyloxy)-4-iodo-2-methylbenzene | 950 mg, 98% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)I)C | C14H13IO
